US05256675
To a solution of 2-amino-4-(4-aminophenylsulfinylmethyl)thiazole (2.8 g) in N,N-dimethylformamide (30 ml) was added portionwise the 3-chloroperbenzoic acid (2.6 g) at 5° C. with stirring. The mixture was stirred at room temperature for 2 hours and then the solution was poured into ice-water. The precipitates were collected by filtration, washed with aqueous sodium bicarbonate, washed with water and dried in vacuo to give 2-amino-4-(4-aminophenylsulfonylmethyl)thiazole (2.85 g, yield 95.6%). mp: 204°-208° C. (dec.)

reactant | 2-amino-4-(4-aminophenylsulfinylmethyl)thiazole | 2.8 g | NC=1SC=C(N1)CS(=O)C1=CC=C(C=C1)N | C10H11N3OS2
reactant | 3-chloroperbenzoic acid | 2.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-amino-4-(4-aminophenylsulfonylmethyl)thiazole | 2.85 g, yield 95.6% | NC=1SC=C(N1)CS(=O)(=O)C1=CC=C(C=C1)N | C10H11N3O2S2
